US08877815B2
Synthesis of (S)-2-amino-3-(biphenyl-4-yl)-N-(furan-2-ylmethyl)-N-methylpropanamide
To a solution of (S)-tert-butyl 3-(biphenyl-4-yl)-1-((furan-2-ylmethyl)(methyl)amino)-1-oxopropan-2-ylcarbamate (614 mg) in CH2Cl2 (6 mL) was added TFA (3 mL). The mixture was stirred at room temperature for 2 hours. The mixture was concentrated under reduced pressure and azeotroped (three times) with toluene and dried under high vacuum. The crude (S)-2-amino-3-(biphenyl-4-yl)-N-(furan-2-ylmethyl)-N-methylpropanamide TFA salt (721 mg) was used for next step without further purification. HPLC retention time=1.37 minutes (condition B); MS (m+1)=335.0.

reactant | (S)-tert-butyl 3-(biphenyl-4-yl)-1-((furan-2-ylmethyl)(methyl)amino)-1-oxopropan-2-ylcarbamate | 614 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)N(C)CC=1OC=CC1)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C26H30N2O4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-3-(biphenyl-4-yl)-N-(furan-2-ylmethyl)-N-methylpropanamide | N[C@H](C(=O)N(C)CC=1OC=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C21H22N2O2
